US09353114B2
In a clean round bottom flask, 9 ml of ethanol, 90 mg of 1-[(4-Methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-4-methylphthalimidopiperidin-1-yl)-xanthine & 0.9 ml of hydrazine hydrate were charged. The temperature of the reaction mass was raised to 78-80° C. & the reaction mass was maintained for 3 hours. The reaction mass was cooled to 50° C. & ethanol was distilled off. 9 ml methylene dichloride was added to the obtained residue & stirred at RT to get the solid. Undesired solid was filtered. The filtrate was concentrated & 9 ml methyl tert butyl ether was added to the residue to get the solid Linagliptin. Reaction mass was stirred at RT & filtered. Wet cake was washed with 2 ml IPA. Dry wt 45 mg

reactant | 1-[(4-Methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-4-methylphthalimidopiperidin-1-yl)-xanthine | 90 mg | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N1C(C=2C(C1=O)=CC(=CC2)C)=O)C | C34H32N8O4
reactant | hydrazine hydrate | 0.9 ml | O.NN
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | Linagliptin | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
